US07429609B2
4-Fluoro-3-formyl-2-methoxybenzonitrile
Under nitrogen atmosphere and at −78° C., to a solution of 10.7 g of N,N-diisopropylamine in 150 mL of tetrahydrofuran was added 40 mL of 2.66 M n-butyllithium in n-hexane, stirred at this temperature for 1 hour and 15 minutes, and added dropwise with a solution of 14.5 g of 4-fluoro-2-methoxybenzonitrile obtained by Production example 95 in 50 mL of tetrahydrofuran. After stirring at this temperature for 2 hours, 11.94 g of N-formylpiperidine was added. After stirring at this temperature for 40 minutes, the solution was added with 20 mL of acetic acid at this temperature, added with water at room temperature, and extracted three times with diethyl ether. The organic layer was washed successively with 0.2N hydrochloric acid, water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography, to afford 6.4 g of the title compound 6.4 g as pale yellow crystals.

reactant | N,N-diisopropylamine | 10.7 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.66 M, 40 mL | C(CCC)[Li]
reactant | 4-fluoro-2-methoxybenzonitrile | 14.5 g | FC1=CC(=C(C#N)C=C1)OC | C8H6FNO
reactant | N-formylpiperidine | 11.94 g | C(=O)N1CCCCC1 | C6H11NO
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-Fluoro-3-formyl-2-methoxybenzonitrile | 6.4 g | FC1=C(C(=C(C#N)C=C1)OC)C=O | C9H6FNO2
